US07459451B2
A solution of ethyl (2E)-3-[1-ethyl-6-isopropyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylate (268 mg) in MeOH-AcOH (90:10, 10 ml) was hydrogenated (3 atm) over palladium hydroxide (38 mg) at room temperature for 8 hours. The reaction mixture was filtered through celite pad and the filtrate was concentrated in vacuo. The residue was dissolved in EtOAc and washed with saturated aqueous NaHCO3, water, brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (1:2) to give ethyl 3-[1-ethyl-6-isopropyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate (123 mg) as a colorless oil.

reactant | ethyl (2E)-3-[1-ethyl-6-isopropyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylate | 268 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)/C=C/C(=O)OCC)C(C)C | C22H26N4O2
solvent | MeOH AcOH | 10 ml | CO.CC(=O)O
catalyst | palladium hydroxide | 38 mg | [OH-].[Pd+2].[OH-]
product | ethyl 3-[1-ethyl-6-isopropyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate | 123 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CCC(=O)OCC)C(C)C | C22H28N4O2
